US06541423B1
2.2 N-(2-Methyl-3-methoxycarbonylphenyl)thiourea
90.7 g of methyl 3-amino-2-methylbenzoate (0.55 mol) were dissolved in 510 ml of chlorobenzene and, at −5° C., admixed with 14 ml of conc. sulfuric acid and 49 g of sodium thiocyanate (0.6 mol). 2 ml of 15-crown-5 were then added, and the reaction mixture was heated at 100° C. for 13 h. After cooling, the solid was filtered off with.suction, washed with water and dried. Yield: 104.8 g (85%).

reactant | methyl 3-amino-2-methylbenzoate | 0.55 mol, 90.7 g | NC=1C(=C(C(=O)OC)C=CC1)C | C9H11NO2
reactant | sulfuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium thiocyanate | 0.6 mol, 49 g | [S-]C#N.[Na+]
reactant | 15-crown-5 | 2 ml | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | chlorobenzene | 510 ml | ClC1=CC=CC=C1 | C6H5Cl
product | N-(2-Methyl-3-methoxycarbonylphenyl)thiourea | CC1=C(C=CC=C1C(=O)OC)NC(=S)N | C10H12N2O2S
